US08034938B2
tert-Butyl (4S)-5-[(methylsulfonyl)amino]-4-[(3-nitroquinolin-4-yl)amino]pentylcarbamate (8.00 g, 17.1 mmol) was dissolved in 150 mL of acetonitrile and the solution was placed in a pressure bottle. Platinum on carbon (5%, 2.0 g) was then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 2 hours, the reaction mixture was then filtered through a pad of CELITE filter agent. The pad was rinsed with acetonitrile and the combined filtrates were concentrated under reduced pressure to give tert-butyl (4S)-4-[(3-aminoquinolin-4-yl)amino]-5-[(methylsulfonyl)amino]pentylcarbamate (7.13 g) as an orange foam.

reactant | tert-Butyl (4S)-5-[(methylsulfonyl)amino]-4-[(3-nitroquinolin-4-yl)amino]pentylcarbamate | 17.1 mmol, 8.00 g | CS(=O)(=O)NC[C@H](CCCNC(OC(C)(C)C)=O)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C20H29N5O6S
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
catalyst | Platinum on carbon | 2.0 g | [Pt] | Pt
product | tert-butyl (4S)-4-[(3-aminoquinolin-4-yl)amino]-5-[(methylsulfonyl)amino]pentylcarbamate | 7.13 g | NC=1C=NC2=CC=CC=C2C1N[C@@H](CCCNC(OC(C)(C)C)=O)CNS(=O)(=O)C | C20H31N5O4S
